US04399141
A mixture of phthalic anhydride (89.6 g, 0.605 mol), m-methoxyphenylacetic acid, (100.5 g, 0.605 mol), and freshly fused sodium acetate (3.0 g) is heated to 255° C. for 1 hour under a Dean-Stark receiver. The orange melt is poured onto aluminum foil and allowed to cool. The solid residue is recrystallized from absolute ethanol (2500 ml) to give 111.5 g (73%) of (3-methoxybenzal)phthalide as a yellow solid: m.p. 119°-123° C. Without further purification it (111.5 g, 0.441 mol) is hydrogenated with Raney nickel (6 tablespoons) at 25° C. and 40 psi in absolute ethanol (3000 ml). The catalyst is removed by filtration through super cel and the filtrate is evaporated to dryness under reduced pressure. The oily residue is slurried with methylene chloride (1000 ml) and extracted with aqueous saturated NaHCO3 (3×500 ml). The basic aqueous extracts are combined, warmed on a steam bath to remove excess methylene chloride, filtered, and the filtrate acidified with 6 N hydrochloric acid to give 70.9 g (63%) of 2-[2-(3-methoxyphenyl)-ethyl]benzoic acid as a white solid: m.p. 119°-122° C. Without further purification it (70.9 g, 0.276 mol) is treated with polyphosphoric acid (437 g) and heated to 100° C. After 2 hours, the reaction mixture is hydrolyzed in ice water and the aqueous phase is extracted with ether (3×300 ml). The combined etheral extracts are washed with aqueous saturated NaHCO3 (1×150 ml), H2O (2×150 ml), dried over MgSO4 and filtered, and the filtrate evaporated to dryness under reduced pressure. Treatment of the residue with ether gives 60.6 g (92%) of title compound as a light yellow solid: m.p. 74°-76° C.

reactant | phthalic anhydride | 0.605 mol, 89.6 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | m-methoxyphenylacetic acid | 0.605 mol, 100.5 g | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
product | (3-methoxybenzal)phthalide | 111.5 g, 73% | COC=1C=C(C=C2OC(=O)C3=CC=CC=C23)C=CC1 | C16H12O3
